US05492821
An equimolar solution of AcPhe-OEt (acceptor) and Ala-NH2 (donor) was dissolved in dioxane containing 5 vol % tertiary amine and approximately 1 vol % water at 23° C. The solution was shaken at 25 oscillations/min and approximately 10 units of poly(2-N-methacrylamido-2-deoxy-D-glucose) α-chymotrypsin conjugate was added. The reaction was monitored using HPLC analysis on a C18 column using 25% acetonitrile aqueous solution with 0.1% TFA as the eluent. After 12 hours, HPLC analysis found a quantitative yield of AcPheAla-NH2. The solution was then filtered, the dioxane reduced in vacuo and the product purified by recrystallization obtaining a 97% yield of AcPheAla-NH2. Additional examples of the use of protease-polymer conjugates for the formation of peptide bonds are contained in Table 2. Note that despite the presence of organic solvent, peptide bond formation can be accomplished at elevated temperatures. The use of protease-polymer conjugates for the synthesis of peptide bonds is important, not only for the preparation of peptides and proteins, but also because the chemistry demonstrates the stability of protein-polymer conjugates in organic solvents. Under the same conditions and at the same activity levels used for the preparation of peptide bonds using protease-polymer conjugates, the native enzymes gave less than 5% of the desired product.

reactant | AcPhe-OEt | N([C@@H](CC1=CC=CC=C1)C(=O)OCC)C(=O)C | C13H17NO3
reactant | Ala-NH2 | N[C@@H](C)C(=O)N | C3H8N2O
reactant | acetonitrile | C(C)#N | C2H3N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | AcPheAla-NH2 | quantitative yield | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N)C(=O)C | C14H19N3O3
